US07872000B2
A mixture of 5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine-4-ol (0.66 g; 3.7 mmol; 1.0 equiv) in 3.3 mL of POCl3 (37 mmol; 10 equiv) was heated at 100° C. for 2 hours. The reaction was cooled and poured onto ice. The solution was adjusted to ca. pH 5 with ammonium hydroxide. The oil was extracted with ether and the extract was dried over MgSO4. The solvent was evaporated to give 4-chloro-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine t as a clear yellow oil (0.71 g; 98% yield).

reactant | 5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine-4-ol | 3.7 mmol, 0.66 g, 1.0 equiv | N1=CN=C(C2=C1CCCCCC2)O | C10H14N2O
reactant | POCl3 | 37 mmol, 3.3 mL, 10 equiv | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-chloro-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine | 98% yield | ClC=1C2=C(N=CN1)CCCCCC2 | C10H13ClN2
